US03946009
Step C: 2-Amino-3-chloro-6-methoxypyrazine
A suspension of 2-amino-6-methoxypyrazine 4-oxide in freshly distilled phosphorus oxychloride is refluxed for one hour. Thin layer chromatography indicates that the starting material is no longer present. The excess of phosphorus oxychloride is removed in vacuo and the residue is treated with crushed ice. After decomposition is complete the solution is made alkaline with 10% sodium hydroxide and extracted with chloroform. The chloroform extracts are washed with water, dried over sodium sulfate and evaporated to give the product which may be recrystallized from a suitable solvent such as ethanol.

reactant | 2-amino-6-methoxypyrazine 4-oxide | NC1=NC(=C[N+](=C1)[O-])OC | C5H7N3O2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Amino-3-chloro-6-methoxypyrazine | NC1=NC(=CN=C1Cl)OC | C5H6ClN3O
